US06818780B2
To 3.82 g (17.36 mmoles) of methyl ester of 3-(4-acetylphenyl) propionic acid were added 100 ml of dry tetrahydrofurane. To this solution were slowly added 1.80 g (47.43 mmoles) of lithium aluminium hydride (LiAlH4). The reaction mixture was refluxed in an argon atmosphere for 4 hours. At the end of the reaction, water was carefully added, extraction was performed three times with diethyl ether and the result was vacuum dried over anhydrous sodium sulphate, giving 1.70 g (65% yield) of 3-(4-hydroxyphenyl)-1-propanol. Crystallisation in methanol gave a white crystalline solid m,.p.=52-53° C.

reactant | 3-(4-acetylphenyl) propionic acid | C(C)(=O)C1=CC=C(C=C1)CCC(=O)O | C11H12O3
reactant | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
reactant | lithium aluminium hydride | 47.43 mmoles, 1.80 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | water | O | H2O
product | 3-(4-hydroxyphenyl)-1-propanol | 1.70 g, 65% yield | OC1=CC=C(C=C1)CCCO | C9H12O2
